US07282501B2
Step B: (4-Bromo-3-bromomethyl-phenoxy)-tert-butyl-dimethyl-silane
(4-Bromo-3-methyl-phenoxy)-tert-butyl-dimethyl-silane (255 g, 0.846 mol), dichloroethane (2.5 L), N-bromosuccinimide (165 g, 0.927 mol) and 2,2′-azobisisobutyronitrile (19.0 g, 0.116 mol) were combined in a 5 L flask. The mixture was degassed by evacuating and purging with N2 (5×). The reaction mixture was heated to 47° C., and the heat was shut off. An exotherm to 76° C. occurred. GC analysis showed 6.5% unreacted starting material. The heat was applied again, and the reaction was held at reflux (83° C.) for 15 min. After cooling to 8° C., heptane (1.0 L) was added. The resulting slurry was stirred at 4° C. for 30 min and filtered. The filtrate was evaporated to dryness. The residue was treated with heptane (1 L), placed in the freezer overnight, and filtered. The filtrate was concentrated to the title compound (326 g, 101%).

reactant | (4-Bromo-3-methyl-phenoxy)-tert-butyl-dimethyl-silane | 0.846 mol, 255 g | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)C | C13H21BrOSi
reactant | dichloroethane | 2.5 L | ClC(C)Cl | C2H4Cl2
reactant | N-bromosuccinimide | 0.927 mol, 165 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobisisobutyronitrile | 0.116 mol, 19.0 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | (4-Bromo-3-bromomethyl-phenoxy)-tert-butyl-dimethyl-silane | BrC1=C(C=C(O[Si](C)(C)C(C)(C)C)C=C1)CBr | C13H20Br2OSi
